### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Category/Cat): cartesian closed instance on small categories

### PR DESCRIPTION
**Pull request by emilyriehl**
The category of small categories is cartesian closed, with exponentials defined by functor categories. Adjoint transposition is defined by currying and uncurrying.

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #25646.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/25646*

### CODE REVIEW

**Review by callesonne — APPROVED** [review]
Summary of what I have said in previous PR:

LGTM, only remaining thing is if `compFlipUncurryIso` and `compFlipCurryIso` should be kept now that the `comp_flip_uncurry_eq` and `comp_flip_curry_eq` can be proven by `rfl` (maybe @joelriou can comment on this).

File: Mathlib/CategoryTheory/Category/Cat.lean [hunk 1]
```diff
@@ -183,6 +183,21 @@ def equivOfIso {C D : Cat} (γ : C ≅ D) : C ≌ D where
...
+def isoOfEquiv {C D : Cat.{v, u}} (e : C ≌ D)
+    (h₁ : ∀ (X : C), e.inverse.obj (e.functor.obj X) = X)
+    (h₂ : ∀ (X : C), e.unitIso.hom.app X = eqToHom (h₁ X).symm)
+    (h₃ : ∀ (Y : D), e.functor.obj (e.inverse.obj Y) = Y)
+    (h₄ : ∀ (Y : D), e.counitIso.hom.app Y = eqToHom (h₃ Y)) :
+    C ≅ D where
+  hom := e.functor
+  inv := e.inverse
+  hom_inv_id := (Functor.ext_of_iso e.unitIso (fun X ↦ (h₁ X).symm) h₂).symm
+  inv_hom_id := (Functor.ext_of_iso e.counitIso h₃ h₄)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat.lean]: If we permute the parameters, we can give `by aesop_cat` as the default tactic for the assumptions involving `eqToHom`. In particular, when it is used below, we no longer need the `(by aesop)`s:
```suggestion
@[simps]
def isoOfEquiv {C D : Cat.{v, u}} (e : C ≌ D)
    (h₁ : ∀ (X : C), e.inverse.obj (e.functor.obj X) = X)
    (h₂ : ∀ (Y : D), e.functor.obj (e.inverse.obj Y) = Y)
    (h₃ : ∀ (X : C), e.unitIso.hom.app X = eqToHom (h₁ X).symm := by aesop_cat)
    (h₄ : ∀ (Y : D), e.counitIso.hom.app Y = eqToHom (h₂ Y) := by aesop_cat) :
    C ≅ D where
  hom := e.functor
  inv := e.inverse
  hom_inv_id := (Functor.ext_of_iso e.unitIso (fun X ↦ (h₁ X).symm) h₃).symm
  inv_hom_id := (Functor.ext_of_iso e.counitIso h₂ h₄)
```

File: Mathlib/CategoryTheory/Category/Cat.lean [hunk 2]
```diff
@@ -183,6 +183,21 @@ def equivOfIso {C D : Cat} (γ : C ≅ D) : C ≌ D where
...
+    (h₁ : ∀ (X : C), e.inverse.obj (e.functor.obj X) = X)
+    (h₂ : ∀ (Y : D), e.functor.obj (e.inverse.obj Y) = Y)
+    (h₃ : ∀ (X : C), e.unitIso.hom.app X = eqToHom (h₁ X).symm := by aesop_cat)
+    (h₄ : ∀ (Y : D), e.counitIso.hom.app Y = eqToHom (h₂ Y) := by aesop_cat) :
+    C ≅ D where
+  hom := e.functor
+  inv := e.inverse
+  hom_inv_id := (Functor.ext_of_iso e.unitIso (fun X ↦ (h₁ X).symm) h₃).symm
+  inv_hom_id := (Functor.ext_of_iso e.counitIso h₂ h₄)
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat.lean:199]:
```suggestion
```

File: Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean [hunk 3]
```diff
@@ -0,0 +1,109 @@
...
+
+@[simp]
+lemma cartesianClosed_closed_rightAdj_obj {D : Type u} [Category.{u} D] :
+    ((Closed.rightAdj (C := Cat.{u,u}) (Cat.of C)).obj (Cat.of D)) = Cat.of (C ⥤ D) := rfl
+
+@[simp]
+lemma cartesianClosed_closed_rightAdj_map {D E : Type u}
+    [Category.{u} D] [Category.{u} E] {F : D ⥤ E} :
+    (CategoryTheory.Closed.rightAdj (C := Cat.{u,u}) (Cat.of C)).map F.toCatHom
+      = (whiskeringRight _ _ _).obj F := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]:
```suggestion
    (CategoryTheory.Closed.rightAdj (C := Cat.{u,u}) (Cat.of C)).map F.toCatHom =
      (whiskeringRight _ _ _).obj F := rfl
```

File: Mathlib/CategoryTheory/Functor/Currying.lean [hunk 4]
```diff
@@ -167,6 +178,27 @@ lemma uncurry_obj_curry_obj_flip_flip' (F₁ : B ⥤ C) (F₂ : D ⥤ E) (G : C
...
+  left_inv := fun _ ↦ rfl
+  right_inv := fun _ ↦ rfl
+
+/-- The equivalence of types of bifunctors given by currying. -/
+@[simps!]
+def curryingEquiv : C ⥤ D ⥤ E ≃ C × D ⥤ E where
+  toFun F := uncurry.obj F
+  invFun G := curry.obj G
+  left_inv := fun F ↦ curry_obj_uncurry_obj F
+  right_inv := fun G ↦ uncurry_obj_curry_obj G
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/Currying.lean]: The syntax `left_inv F := ...` is preferred. Here, we can even do:
```suggestion
  left_inv := curry_obj_uncurry_obj
  right_inv := uncurry_obj_curry_obj
```

File: Mathlib/CategoryTheory/Functor/Currying.lean [hunk 5]
```diff
@@ -167,6 +178,27 @@ lemma uncurry_obj_curry_obj_flip_flip' (F₁ : B ⥤ C) (F₂ : D ⥤ E) (G : C
     dsimp
     simp only [Category.id_comp, Category.comp_id, ← G.map_comp, prod_comp])
 
+/-- The equivalence of types of bifunctors giving by flipping the arguments. -/
+@[simps!]
+def flippingEquiv : C ⥤ D ⥤ E ≃ D ⥤ C ⥤ E where
+  toFun F := F.flip
+  invFun F := F.flip
+  left_inv := fun _ ↦ rfl
+  right_inv := fun _ ↦ rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/Currying.lean]:
```suggestion
  left_inv _ := rfl
  right_inv _ := rfl
```

File: Mathlib/CategoryTheory/Functor/Currying.lean [hunk 6]
```diff
@@ -13,9 +13,10 @@ We define `curry : ((C × D) ⥤ E) ⥤ (C ⥤ (D ⥤ E))` and `uncurry : (C ⥤
 and verify that they provide an equivalence of categories
 `currying : (C ⥤ (D ⥤ E)) ≌ ((C × D) ⥤ E)`.
 
+This is used elsewhere to equip the category of small categories with a cartesian closed structure
+`cartesianClosed : CartesianClosed Cat.{u, u}`.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/Currying.lean]:
```suggestion
This is used in `CategoryTheory.Category.Cat.CartesianClosed` to equip the category of small
categories `Cat.{u, u}` with a cartesian closed structure.
```

File: Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean (hunk 3 above)
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]: These are better names:
```suggestion
@[simp]
lemma ihom_obj (D : Type u) [Category.{u} D] :
    (ihom (Cat.of C)).obj (Cat.of D) = Cat.of (C ⥤ D) := rfl

@[simp]
lemma ihom_map {D E : Type u} [Category.{u} D] [Category.{u} E] (F : D ⥤ E) :
    (ihom (Cat.of C)).map F.toCatHom = (whiskeringRight _ _ _).obj F := rfl
```
Could you add a TODO about investigating how to phrase more compatibilities (which may become necessary in future works)? I am thinking about relating `MonoidalClosed.(un)curry` and `CategoryTheory.currying`, and also `pre` with `whiskeringLeft`. (The difficulty shall be that these compatibilities are probably not definitional equalities (between functors or 1-morphisms in `Cat`) and that they would probably have to be phrased using `eqToIso` isomorphisms.)

File: Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean [hunk 7]
```diff
@@ -0,0 +1,109 @@
...
+variable {B C D E : Type u} [Category.{u} B] [Category.{u} C]
+  [Category.{u} D] [Category.{u} E]
+
+/-- Natural isomorphism witnessing `comp_flip_curry_eq`. -/
+@[simps!]
+def compFlipCurryIso (F : C × B ⥤ D) (G : D ⥤ E) :
+    (curry.obj (F ⋙ G)).flip ≅ (curry.obj F).flip ⋙ (Cat.exp (Cat.of C)).map G.toCatHom :=
+  .refl _
+
+lemma comp_flip_curry_eq (F : C × B ⥤ D) (G : D ⥤ E) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]: This name would be slightly more consistent with our naming conventions:
```suggestion
lemma curry_obj_comp_flip (F : C × B ⥤ D) (G : D ⥤ E) :
```
The iso above should be changed accordingly.

Comment (emilyriehl) [reply Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]: Done.

File: Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean (hunk 3 above)
Comment (emilyriehl) [reply Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]: Done. Let me know if you have any phrasing tweaks.

File: Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean [hunk 8]
```diff
@@ -0,0 +1,112 @@
...
+def flippingIso : Cat.of (C ⥤ D ⥤ E) ≅ Cat.of (D ⥤ C ⥤ E) :=
+  isoOfEquiv CategoryTheory.flipping Functor.flip_flip Functor.flip_flip
+
+/-- Natural isomorphism witnessing `comp_flip_uncurry_eq`. -/
+@[simps!]
+def compFlipUncurryIso (F : B ⥤ D) (G : D ⥤ C ⥤ E) :
+    uncurry.obj (F ⋙ G).flip ≅ (𝟭 C).prod F ⋙ uncurry.obj G.flip := .refl _
+
+lemma comp_flip_uncurry_eq (F : B ⥤ D) (G : D ⥤ C ⥤ E) :
+    uncurry.obj (F ⋙ G).flip = (𝟭 C).prod F ⋙ uncurry.obj G.flip := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]: It seems to me this should go in the file `Functor.Currying`.

File: Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean [hunk 9]
```diff
@@ -0,0 +1,112 @@
...
+
+/-- Natural isomorphism witnessing `comp_flip_curry_eq`. -/
+@[simps!]
+def curryObjCompIso (F : C × B ⥤ D) (G : D ⥤ E) :
+    (curry.obj (F ⋙ G)).flip ≅ (curry.obj F).flip ⋙ (Cat.exp (Cat.of C)).map G.toCatHom :=
+  .refl _
+
+lemma curry_obj_comp_flip (F : C × B ⥤ D) (G : D ⥤ E) :
+    (curry.obj (F ⋙ G)).flip =
+      (curry.obj F).flip ⋙ (Cat.exp (Cat.of C)).map G.toCatHom := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]: This should be stated using `whiskeringRight` instead of `Cat.exp`, and so it should also be moved to `Functor.Currying`.

Comment (emilyriehl) [reply Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]: Done.

File: Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean (hunk 8 above)
Comment (emilyriehl) [reply Mathlib/CategoryTheory/Category/Cat/CartesianClosed.lean]: Done.

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by joelriou** [comment]
Thanks!

bors merge
